Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
biliary obstruction
 
Major Surgical or Invasive Procedure:
Removal of ERCP stent and placement of bilateral RHPD and LHD 
metals stents

 
History of Present Illness:
___ yr old female with hx of recently diagnosed stage IV
cholangiocarcinoma s/p plastic stent to R biliary system,
followed by bilateral PTBD for L sided drainage, admitted for
monitoring after removal of ERCP stent and placement of 
bilateral
RHPD and LHD stents by ___.

Briefly, pt initially presented in early ___ with painless
jaundice and pruritis, and was found on MRI to have 7.4 cm mass
suspicious for cholangiocarcinoma. On ___ she underwent
elective ERCP with sphincterotomy and placement of plastic stent
to R side, unable to drain L side ___ high grade hilar 
stricture;
bilateral PTBD was placed for L side drainage. Brushings and
liver biopsy subsequently returned as adenocarcinoma. Metallic
stenting was deferred as pt wanted second opinion regarding
possibility of resection. Since that time, pt was seen by
oncology (Dr. ___, and decision was made to proceed with
chemotherapy and metallic stenting. 

On ___, she underwent procedure as described above, which
was complicated by postprocedural pain.

On arrival to the floor, pt endorses ___ post procedural pain
with associated nausea. She feels that hunger is contributing to
her nausea, and is requesting a snack with ginger ale. Denies
chest pain, SOB.
 
Past Medical History:
Stage IV cholangiocarcinoma
 
Social History:
___
Family History:
Family History: Father had multiple strokes, mother with a valve 
replacement, multiple sisters with autoimmune diseases, lupus, 
Sjogren's, vitiligo. No history of cancer in her family 

 
Physical Exam:
Admission Physical Exam:
========================
VS: ___ ___ Temp: 98.4 PO BP: 151/86 HR: 79 RR: 16 O2 sat:
95% O2 delivery: RA Dyspnea: 0 RASS: -1 Pain Score: ___ 
GEN: alert and interactive, fatigued appearing, pain ___
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles; shallow breaths ___ pain
GI: soft, exquisitely TTP at RUQ>LUQ, nondistended, hypoactive
(but present) bowel sounds. Two drains in place at RUQ and LUQ,
dressing C/D/I. Unable to assess for hepatomegaly ___ pain
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

Discharge Physical Exam:
========================
Vital Signs reviewed in electronic medical record
General: no acute distress
HEENT: atraumatic, anicteric, eomi,oropharynx clear
Neck: supple
Heart: s1 s2
Lungs: ctab
Abdomen: soft nt nd no masses; no cva tenderness
Ext: no c/c/
 
Pertinent Results:
Admission Labs:
===============
___ 01:26AM BLOOD WBC-25.1* RBC-4.13 Hgb-12.7 Hct-39.5 
MCV-96 MCH-30.8 MCHC-32.2 RDW-13.7 RDWSD-48.2* Plt ___
___ 01:26AM BLOOD ___ PTT-29.3 ___
___ 01:26AM BLOOD Glucose-139* UreaN-12 Creat-0.7 Na-140 
K-4.6 Cl-99 HCO3-25 AnGap-16
___ 01:26AM BLOOD ALT-70* AST-67* LD(LDH)-242 AlkPhos-288* 
TotBili-2.4*
___ 01:26AM BLOOD Albumin-3.9 Calcium-9.7 Phos-4.4 Mg-1.9

Discharge Labs:
===============

___ 07:00AM BLOOD WBC-12.2* RBC-4.20 Hgb-13.1 Hct-40.2 
MCV-96 MCH-31.2 MCHC-32.6 RDW-13.6 RDWSD-48.1* Plt ___
___ 07:00AM BLOOD Glucose-93 UreaN-7 Creat-0.6 Na-138 K-4.1 
Cl-96 HCO3-28 AnGap-14
___ 07:00AM BLOOD Albumin-3.9 Calcium-9.5 Phos-3.9 Mg-2.___ with hx of recently diagnosed stage IV cholangiocarcinoma 
s/p plastic stent to R biliary system, followed by bilateral 
PTBD for L sided drainage, admitted for
monitoring after removal of ERCP stent and placement of 
bilateral RHPD and LHD metal stents by ___.

# Biliary obstruction:
# Post procedural pain: 
# Stage IV cholangiocarcinoma: 
# Leukocytosis: underwent removal of ERCP stent and placement of 
bilateral RHD and LHD drains. With respect to her 
cholangiocarcinoma, she has been seen by Dr. ___ as an 
outpatient (___) and has been consented for chemotherapy, 
which has not yet started.
She was in significant pain immediately after procedure which 
was managed with dilaudid and oxycodone. She also had pain after 
plastic stent placement though not quite as severe.
She was found to have a leukocytosis to 25. Recently as an 
outpatient her WBC count has been elevated to the ___ range in 
the setting of malignancy. Given her pain and leukocytosis she 
was initially started on IV antibiotics. Antibiotics were 
discontinued after she remained afebrile with downtrending WBC 
count and wbc ct on discharge is 12.2k and blood cultures are 
negative to date. UA is negative. 
Pain controlled without narcotics. 
Plan on discharge is for patient to follow up to have PORT 
placed and pt is follow up with Interventional Radiology for 
removal of drain/stents later this week (pt has contact 
information and phone number for ___. Pt is also to follow  up 
with her Oncologist for initiation of treatment.

Transitional Issues:
====================
-Blood cultures negative to date at time of discharge
-Pt is to follow up with Oncology Dr. ___ discharge for 
Port placement and additional therapy
-Pt is to follow up with Interventional Radiology for removal of 
drain/stents

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Estrogens Conjugated 1 gm VG QPM:PRN vaginal dryness  
2. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

3. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
4. Simethicone 40-80 mg PO QID:PRN gas pain  

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
5.  Simethicone 40-80 mg PO QID:PRN gas pain   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Biliary obstruction
Metastatic cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in to have a procedure to place stents in your bile 
ducts. You were observed in the hospital since you were having 
pain after your procedure.

You should follow up with Interventional Radiology and  Dr. 
___ as previously scheduled.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___